US04678783
To 50 ml of thionyl chloride were added 5.85 g of 1-chloro-5-isoquinolinesulfonic acid as obtained in Example 1 and 0.5 ml of N,N-dimethylformamide. Then, the resulting mixture was refluxed while heating at 80° to 85° C. for 2 hours, followed by removal of the thionyl chloride and N,N-dimethylformamide under reduced pressure to obtain a residue. The residue was dissolved in a liquid consisting of 20 ml of water and 50 ml of dichloromethane, and the pH of the aqueous solution was adjusted to 6.0 with an aqueous sodium hydrogencarbonate saturated solution. Then, the dichloromethane layer was added to a 100 ml of a dichloromethane solution containing 6.0 g of homopiperazine for 20 minutes while cooling with ice, followed by stirring for 1 hour at a temperature of 15° C. to 20° C. The obtained reaction mixture was washed thrice with 50 ml of water, dried with anhydrous sodium sulfate and then distilled under reduced pressure to obtain oily residue. The thus obtained oily residue was subjected to purification by the silica gel column chromatography (Wacogel C-200, 150 g; solvent: a 5% methanol solution in chloroform), thereby to obtain 5.5 g of 1-(1-chloro-5-isoquinolinesulfonyl)homopiperazine, i.e., Compound (76), in a 84% yield. Analytical data on Compound (76) are given below.

reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-chloro-5-isoquinolinesulfonic acid | 5.85 g | ClC1=NC=CC=2C(=CC=CC12)S(=O)(=O)O | C9H6ClNO3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | homopiperazine | 6.0 g | N1CCNCCC1 | C5H12N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 1-(1-chloro-5-isoquinolinesulfonyl)homopiperazine | 5.5 g, 84% yield | ClC1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CCNCCC1 | C14H16ClN3O2S
